US07989438B2
Step 2: (1-benzylpyrrolidin-2-yl)methanol
A solution (0.06M) of benzyl 1-benzylprolinate in THF was cooled in an ice bath and treated with LiAlH4 (3 eq). The resulting mixture was stirred at RT for 3 h, before being quenched by the addition of H2O. The resulting mixture was stirred at RT for 30 min and then filtered through a pad of Solka-Floc and the filtrate concentrated in vacuo. The crude was purified by FC (PE/EtOAc 6:4+1% NEt3) to afford the title compound as an off-white solid (62%). 1H NMR (400 MHz, CDCl3) 1.66-1.81 (m, 2H), 1.82-1.97 (m, 2H), 2.25-2.34 (m, 1H), 2.40-2.53 (m, 1H), 2.71-2.77 (m, 1H), 2.94-3.01 (m, 1H), 3.34-3.39 (m, 1H), 3.40-3.45 (m, 1H), 3.63-3.68 (m, 1H), 3.95-3.99 (m, 1H), 7.26-7.30 (m, 5H).

reactant | benzyl 1-benzylprolinate | 0.06M | C(C1=CC=CC=C1)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C19H21NO2
reactant | LiAlH4 | 3 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | (1-benzylpyrrolidin-2-yl)methanol | 62% | C(C1=CC=CC=C1)N1C(CCC1)CO | C12H17NO
